Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
latex
 
Attending: ___
 
Chief Complaint:
Headaches, dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old year old male hx of hydrocephalus s/p VPS placed
as an infant, last revised at the age of ___ transferred from OSH
with c/o generalized weakness,poor appetite, dizziness and
headaches. He state 4 days ago on ___ he was not feeling
well and his symptoms did not improve. He states that he has 
been
laying in bed for the past 4 days and haven't eaten much. He 
went
to ___ for further evaluation. At OSH he was
given IV fluids and tylenol initially he felt better and was
going to be discharged, when he stood up he developed severe
headache to occipital region. CT head was obtained without
hemorrhage however, his third ventricle has increased in size. 
He
was transferred to ___ for further evaluation. 

Currently reports headache ___, states has improved he had
recently received Tylenol. He is unsure if he has had any fevers
as he did not check his temperature.  Currently denies
nausea,vomiting, blurry vision photophobia, difficulty
ambulating, paresthesia or neck pain.  Patient reports that he
has not been feeling well and has been laying in bed mostly for
the past 4 days. He has only been getting out of bed to use
bathroom. Patient reports also his job has been stressful in
regards to him not meeting deadlines.  Patient states the last
time he had a severe headache like this about ___ years when he
deciding about graduate school. He stated it improved after
receiving fioricet.  
 
Past Medical History:
Hydrocephalus s/p VPS initially at the age of ___, revised
at ___ old and then ___ years old in ___ 
___ 
dysthymia 
 
Social History:
___
Family History:
NC
 
Physical Exam:
On Admission:
--------------
PHYSICAL EXAM:
T:96.3 BP:141/83  HR:51   RR:16       O2Sats:100%RA 

Gen: WD/WN, comfortable, NAD.
HEENT: Denies neck pain, no nuchal rigidity Pupils: 4mm -3mm
briskly reactive bilaterally 
 EOMs lateral nystagmus bilaterally 
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension.  No dysarthria
or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4mm to 3mm 
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch 

Coordination: normal on finger-nose-finger, rapid alternating
movements

VPS assessment: able to palpate VPS hardware, there is no
reservoir, incision healed, no erythema or wound drainage. Old
abdominal scar without erythema or wound drainage 

On Discharge:
--------------
___ x 3.  NAD.  PERRLA.  CNII-XII intact.
LS clear
RRR
Abdomen Soft, NTND
___ BUE nd BLE, no drift.
 
Pertinent Results:
Please see OMR for relevant laboratory and imaging results.
 
Brief Hospital Course:
___ year old male with a history of hydrocephalus s/p shunt 
placement as a small child who presets with headaches, 
dizziness, and generalized weakness and imaging concerning for 
ventriculomegaly.

#Ventriculomegaly
The patient was admitted to Neurosurgery for further work-up. He 
underwent a repeat CT of the head, which showed unchanged 
ventriculomegaly. He also underwent MR of the head which again 
showed unchanged ventriculomegaly, but no evidence of any acute 
intracranial etiology of his symptoms. Neurology was initially 
consulted and recommended headache management. Ophthalmology was 
consulted to evaluate for papilledema associated with acute 
intracranial hypertension, but there was no evidence of 
papilledema on their evaluation. The patient continued to be 
monitored and remained neurologically stable.

#Tachycardia
The patient was found to be tachycardic to the 150s-160s with 
mobilization. He was asymptomatic during this, and his heart 
rate returned to baseline once he was back at rest. His labs 
were checked and were within expected limits. An EKG was also 
obtained and was unremarkable. Medicine was consulted, and 
recommended fluid repletion, so the patient was given a 1L 
normal saline bolus.  The patient improved slightly but still 
into sinus tachycardia with ambulation.  Seen by medicine and 
cleared for home with holter monitor and f/u with cardiology.

#Disposition
The patient mobilized with the nurse and was determined to be 
independent with mobilization.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ventriculomegaly

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

HA - Question of hydrocephalus and VPS malfunction - Instead 
found to have Rickham port.

Activity:
·     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.
·     You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
·     No driving while taking any narcotic or sedating 
medication.
·     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law.
·     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months.

Medications:
·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

What You ___ Experience:
·     Headache or pain along your incision.
·     Some neck tenderness along the shunt tubing.
·     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

When to Call Your Doctor at ___ for:
·     Severe pain, swelling, redness or drainage from the 
incision site.
·     Fever greater than 101.5 degrees Fahrenheit
·     Nausea and/or vomiting
·     Extreme sleepiness and not being able to stay awake
·     Severe headaches not relieved by pain relievers
·     Seizures
·     Any new problems with your vision or ability to speak
·     Weakness or changes in sensation in your face, arms, or 
leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
·     Sudden numbness or weakness in the face, arm, or leg
·     Sudden confusion or trouble speaking or understanding
·     Sudden trouble walking, dizziness, or loss of balance or 
coordination
·     Sudden severe headaches with no known reason
 
Followup Instructions:
___